US07396844B1
Synthesis of 3-[(2S)-3-[4-(1-benzyloxycarbonyl-4-piperidyloxy)phenyl]-2-(t-butoxycarbonylamino)propoxy]-4-iodobenzonitrile
1.3 g (2.6 mmol) of benzyl 4-[4-[(2S)-3-chloro-2-(t-butoxycarbonylamino)propyl]phenoxy]piperidine-1-carboxylate, 686 mg (2.8 mmol) of 3-hydroxy-4-iodobenzonitrile and 390 mg (2.8 mmol) of potassium carbonate were dissolved in dimethylformamide. The solution was stirred at 65° C. for 4 days, and then treated with ethyl acetate as the extractant in an ordinary manner to obtain the title compound, which was then subjected to the subsequent reaction without further purification.

reactant | benzyl 4-[4-[(2S)-3-chloro-2-(t-butoxycarbonylamino)propyl]phenoxy]piperidine-1-carboxylate | 2.6 mmol, 1.3 g | ClC[C@H](CC1=CC=C(OC2CCN(CC2)C(=O)OCC2=CC=CC=C2)C=C1)NC(=O)OC(C)(C)C | C27H35ClN2O5
reactant | 3-hydroxy-4-iodobenzonitrile | 2.8 mmol, 686 mg | OC=1C=C(C#N)C=CC1I | C7H4INO
reactant | potassium carbonate | 2.8 mmol, 390 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-[(2S)-3-[4-(1-benzyloxycarbonyl-4-piperidyloxy)phenyl]-2-(t-butoxycarbonylamino)propoxy]-4-iodobenzonitrile | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)C[C@@H](COC=1C=C(C#N)C=CC1I)NC(=O)OC(C)(C)C | C34H38IN3O6
